US07858624B2
To a solution of (R)-tert-butyl 2-((S)-(2-ethoxy-2-oxoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)morpholine-4-carboxylate (570 mg, 1.17 mmol) in CH3OH (20 mL) at rt, NaBH4 (355 mg, 9.36 mmol) was added in portions. The mixture was stirred for ˜0.5 h at rt and then evaporated. The residue was partitioned between water and EtOAc. The combined organic layers were washed with brine, dried over anhydrous NaSO4 and evaporated to give semi-crude (R)-tert-butyl 2-((S)-(6-fluoro-3′-methylbiphenyl-2-yl)(2-hydroxyethoxy)methyl)morpholine-4-carboxylate (498 mg, 96%), which was used in the next step reaction without further purification. MS (E/Z): 446 (M+H+)

reactant | (R)-tert-butyl 2-((S)-(2-ethoxy-2-oxoethoxy)(6-fluoro-3′-methylbiphenyl-2-yl)methyl)morpholine-4-carboxylate | 1.17 mmol, 570 mg | C(C)OC(CO[C@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)F)C1=CC(=CC=C1)C)=O | C27H34FNO6
reactant | NaBH4 | 9.36 mmol, 355 mg | [BH4-].[Na+]
solvent | CH3OH | 20 mL | CO | CH4O
product | (R)-tert-butyl 2-((S)-(6-fluoro-3′-methylbiphenyl-2-yl)(2-hydroxyethoxy)methyl)morpholine-4-carboxylate | 498 mg, 96% | FC1=CC=CC(=C1C1=CC(=CC=C1)C)[C@@H]([C@H]1CN(CCO1)C(=O)OC(C)(C)C)OCCO | C25H32FNO5
